R1 (0 net15) R=8.3E3
R2 (net39 net20) R=3.8E5
R3 ( net32 net24)  R=7.7E6
T4 ( net24 net24 vdd! vdd!)  pfet  L=7.02E-6 W=8.29E-6
T5 ( net48 net24 vdd! vdd!)  pfet  L=7.02E-6 W=8.29E-6
T6 (net8 net68 net68 0) pfet L=9.54E-6 W=0.53E-6
R7 (net43 net48) R=8.9E5
T8 (net22 net13 net13 0) nfet L=7.30E-6 W=2.96E-6
R9 (net45 net12) R=8.7E5
R10 ( net16 net9)  R=7.6E2
T11 ( net9 net9 net51 vdd!)  pfet  L=2.81E-6 W=7.57E-6
T12 ( net51 net21 vdd! vdd!)  pfet  L=2.81E-6 W=7.57E-6
T13 ( net21 net21 vdd! vdd!)  pfet  L=2.81E-6 W=7.57E-6
T14 ( vdd! net9 net21 vdd!)  pfet  L=2.81E-6 W=7.57E-6
R15 (net57 net11) R=6.3E2
T16 (net14 net34 net34 0) pfet L=8.70E-6 W=8.92E-6
R17 (net68 net31) R=7.9E1
T18 (net60 net2 net2 0) pfet L=3.14E-6 W=0.68E-6
C19 (net3 net64) C=0.7E-12
R20 (net30 net61) R=8.4E4
T21 (net34 vdd! vdd! 0) pfet L=5.93E-6 W=7.66E-6
T22 (net39 net46 net46 0) pfet L=0.41E-6 W=0.71E-6
C23 (vdd! net28) C=0.4E-12
C24 (net29 net5) C=3.7E-5
T25 (net43 net18 net18 0) pfet L=7.26E-6 W=6.62E-6
T26 (net27 net60 net60 0) pfet L=0.43E-6 W=1.13E-6
T27 (net40 net32 net32 0) nfet L=3.39E-6 W=4.89E-6
T28 (net32 net11 net11 0) pfet L=7.32E-6 W=7.93E-6
T29 (net15 net19 net19 0) nfet L=5.28E-6 W=3.69E-6
T30 (vdd! net48 net48 0) nfet L=0.93E-6 W=7.84E-6
T31 (net46 net30 net30 0) nfet L=6.51E-6 W=0.48E-6
C32 (net5 net66) C=6.4E-13
T33 (net53 net23 net23 0) pfet L=8.86E-6 W=0.83E-6
R34 (net14 net68) R=5.5E0
C35 (net42 0) C=0.8E-9
T36 (net16 net29 net29 0) nfet L=9.77E-6 W=4.30E-6
T37 (net65 net42 net42 0) nfet L=7.90E-6 W=3.78E-6
R38 (0 net14) R=2.6E5
T39 (net56 net37 net37 0) pfet L=8.31E-6 W=2.14E-6
T40 (net17 net55 net55 0) pfet L=8.95E-6 W=1.86E-6
C41 (net35 net50) C=6.6E-13
C42 (net52 0) C=3.3E-9
C43 (net46 net58) C=0.6E-13
T44 (net29 net39 net39 0) pfet L=5.28E-6 W=0.88E-6
C45 (vdd! net10) C=9.7E-7
T46 (net25 0 0 0) pfet L=7.86E-6 W=6.25E-6
T47 (net52 net18 net18 0) nfet L=4.46E-6 W=9.12E-6
T48 (vdd! net65 net65 0) pfet L=5.27E-6 W=9.41E-6
C49 (net67 net32) C=7.1E-12
R50 (vdd! net50) R=5.6E4
T51 (net32 net44 net44 0) nfet L=5.57E-6 W=1.98E-6
C52 (net35 net68) C=1.9E-6
C53 (net37 net58) C=5.1E-6
T54 (net13 net22 net22 0) pfet L=5.48E-6 W=9.38E-6
R55 (vdd! net65) R=7.2E3
R56 (net12 net23) R=2.7E0
C57 (net64 net44) C=9.3E-12
T58 (net59 net36 net36 0) nfet L=9.85E-6 W=7.71E-6
R59 (net47 net5) R=7.1E6
T60 (net23 net63 net63 0) pfet L=6.08E-6 W=0.21E-6
R61 (net26 net58) R=9.5E5
C62 (net68 0) C=6.6E-12
R63 (net41 net48) R=3.2E6
T64 (net64 net11 net11 0) nfet L=8.43E-6 W=3.50E-6
T65 (net34 net62 net62 0) pfet L=5.92E-6 W=5.03E-6
T66 (net68 net53 net53 0) nfet L=9.55E-6 W=3.87E-6
R67 (net26 net1) R=1.4E4
C68 (net16 net40) C=7.9E-14
C69 (net68 net62) C=4.3E-9
T70 (net29 net15 net15 0) nfet L=7.01E-6 W=9.97E-6
C71 (net55 net3) C=0.5E-12
R72 (net14 net66) R=4.5E5
T73 (net62 net50 net50 0) nfet L=6.99E-6 W=9.63E-6
T74 (net17 net36 net36 0) nfet L=5.99E-6 W=3.51E-6
T75 (net45 net49 net49 0) nfet L=4.13E-6 W=2.72E-6
T76 (net15 net47 net47 0) nfet L=6.10E-6 W=5.31E-6
T77 (net60 net49 net49 0) pfet L=7.96E-6 W=7.20E-6
C78 (net3 net22) C=3.1E-13
T79 (net68 net31 net31 0) pfet L=8.50E-6 W=8.24E-6
C80 (vdd! net61) C=7.5E-7
T81 (net41 net8 net8 0) pfet L=0.37E-6 W=1.68E-6
T82 (net17 net12 net12 0) nfet L=1.19E-6 W=4.17E-6
R83 (0 net62) R=1.7E1
C84 (net58 net27) C=9.9E-9
C85 (net12 net44) C=6.6E-9
C86 (net27 vdd!) C=3.4E-14
R87 (net50 net65) R=7.3E1
T88 (net34 net15 net15 0) nfet L=3.80E-6 W=1.08E-6
R89 (net66 net53) R=7.3E0
T90 (net35 net56 net56 0) pfet L=5.17E-6 W=1.34E-6
C91 (net56 0) C=3.1E-10
T92 (net66 net7 net7 0) pfet L=3.06E-6 W=9.62E-6
T93 (net30 net53 net53 0) nfet L=2.84E-6 W=7.36E-6
T94 (vdd! net49 net49 0) pfet L=9.93E-6 W=3.14E-6
C95 (net23 net7) C=9.9E-11
R96 (net1 net45) R=8.9E3
T97 (net50 net4 net4 0) nfet L=3.85E-6 W=6.90E-6
C98 (net64 net40) C=1.0E-12
T99 (net14 net16 net16 0) pfet L=6.87E-6 W=2.82E-6
T100 (vdd! net30 net30 0) pfet L=9.49E-6 W=5.43E-6
R101 (net39 net16) R=4.2E2
C102 (vdd! net57) C=3.5E-13
T103 (net11 net19 net19 0) pfet L=2.02E-6 W=8.03E-6
R104 (net20 net12) R=1.5E5
T105 (net54 net4 net4 0) pfet L=8.17E-6 W=6.61E-6
R106 (net41 net19) R=2.5E0
R107 (net12 net27) R=0.4E2
C108 (net12 net11) C=9.6E-5
T109 (net68 net68 net68 0) pfet L=1.67E-6 W=9.99E-6
T110 (net63 net37 net37 0) pfet L=6.32E-6 W=3.06E-6

